US03961069
9-(N-Methylcarbamoyloxy)xanthene (6.0 g., 23.5 mmoles) was stirred with 30 ml. of 3-methyl-2-buten-1-ol for 3 hours at room temperature, and the mixture was then filtered. The filtrate was evaporated in vacuo, and the residue was dissolved in ice-cold ether and washed twice with ice-cold portions of 10% aqueous acetic acid, water, and 5% aqueous sodium bicarbonate solution. After drying over potassium carbonate, the solvent was removed in vacuo, and the resulting oil as distilled to give (3-methyl-2-buten-1-yl) 9-xanthenyl ether, b.p. ca. 110°C. at 0.01 mm.

reactant | 9-(N-Methylcarbamoyloxy)xanthene | 23.5 mmoles, 6.0 g | CNC(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H13NO3
reactant | 3-methyl-2-buten-1-ol | CC(=CCO)C | C5H10O
product | (3-methyl-2-buten-1-yl) 9-xanthenyl ether | C1=CC=CC=2OC3=CC=CC=C3C(C12)OCC=C(C)C | C18H18O2
